US07473694B2
Synthesis of tert-butyl (S)-3-{8-[tert-butoxycarbonyl-(4-ethoxyphenyl)amino]-6,7-dihydro-1,4,5,8a-tetraaza-s-indacen-5-yl}piperidine-1-carboxylate
To a mixed solution of tetrahydrofuran (3 mL) and N,N-dimethylformamide (1 mL) containing tert-butyl (S)-3-[7-[tert-butoxycarbonyl-(4-ethoxyphenyl)amino]-6-(2-methanesulfonyloxyethyl)pyrazolo[1,5-a]pyrimidin-5-ylamino]piperidine-1-carboxylate (0.693 mmol), sodium hydride (with 40% mineral oil added) (55 mg) was added with ice-cooling, and the mixture was stirred for 2 hr. After the reaction, water was added to the reaction solution, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with brine and dried over sodium sulfate. After the sodium sulfate was filtered off, the solvent was distilled off to obtain the title compound.

reactant | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
reactant | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
reactant | tert-butyl (S)-3-[7-[tert-butoxycarbonyl-(4-ethoxyphenyl)amino]-6-(2-methanesulfonyloxyethyl)pyrazolo[1,5-a]pyrimidin-5-ylamino]piperidine-1-carboxylate | 0.693 mmol | C(C)(C)(C)OC(=O)N(C1=C(C(=NC=2N1N=CC2)N[C@@H]2CN(CCC2)C(=O)OC(C)(C)C)CCOS(=O)(=O)C)C2=CC=C(C=C2)OCC | C32H46N6O8S
reactant | sodium hydride | 55 mg | [H-].[Na+]
reactant | water | O | H2O
product | tert-butyl (S)-3-{8-[tert-butoxycarbonyl-(4-ethoxyphenyl)amino]-6,7-dihydro-1,4,5,8a-tetraaza-s-indacen-5-yl}piperidine-1-carboxylate | C(C)(C)(C)OC(=O)N(C1=C2CCN(C2=NC2=CC=NN12)[C@@H]1CN(CCC1)C(=O)OC(C)(C)C)C1=CC=C(C=C1)OCC | C31H42N6O5
